US04581452
A mixture of α-trifluoromethylacrylic acid (4.31 g; 30.8 mmoles), 1,3-dimethylurea (2.75 g; 31.2 mmoles) and acetic anhydride (17 ml) was heated at 100° C. with stirring for one hour. The solvent was evaporated under reduced pressure, and the residue was purified by a column chromatography on silica gel (CHCl3) to give 5.50 g (yield: 84%) of 1,3-dimethyl-5-trifluoromethyldihydrouracil.

reactant | α-trifluoromethylacrylic acid | 30.8 mmoles, 4.31 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | 1,3-dimethylurea | 31.2 mmoles, 2.75 g | CNC(=O)NC | C3H8N2O
reactant | acetic anhydride | 17 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-dimethyl-5-trifluoromethyldihydrouracil | 5.50 g, yield: 84% | CN1C(=O)N(C(=O)C(C1)C(F)(F)F)C | C7H9F3N2O2
